US07304081B2
Step 1. 1-(4-bromophenyl)cyclopropanecarboxylic acid
Sodium hydroxide (50% aqueous solution, 60.0 g, 1.03 mol) was added to a mixture of 4-bromobenzeneacetonitrile (19.6 g, 0.100 mol), benzyltriethylammonium chloride (1.8 g, 0.0079 mol), and 1-bromo-2-chloro-ethane (30.0 g, 0.209 mol) at 50° C. for 5 hours. 1,2-Ethanediol (200.0 mL, 3.588 mol) was added to the mixture and the resulting mixture was heated at 100° C. overnight. The mixture was poured into ice-water (30 mL) and was extracted with ethyl ether (2×10 mL). The aqueous phase was acidified (to pH=2) with 1N HCl and was extracted with ethyl acetate (4×15 mL). The combined organic phases were washed with brine (10 mL), dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue was used in next step reaction without further purification.

reactant | Sodium hydroxide | 1.03 mol, 60.0 g | [OH-].[Na+]
reactant | 4-bromobenzeneacetonitrile | 0.100 mol, 19.6 g | BrC1=CC=C(C=C1)CC#N | C8H6BrN
reactant | 1-bromo-2-chloro-ethane | 0.209 mol, 30.0 g | BrCCCl | C2H4BrCl
reactant | 1,2-Ethanediol | 3.588 mol, 200.0 mL | C(CO)O | C2H6O2
catalyst | benzyltriethylammonium chloride | 0.0079 mol, 1.8 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
product | 1-(4-bromophenyl)cyclopropanecarboxylic acid | BrC1=CC=C(C=C1)C1(CC1)C(=O)O | C10H9BrO2
